US08431695B2
Step 3: Preparation of 1-Amino-4-bromo-1H-pyrrole-2-carbonitrile hydrochloride
A 1 L, 3-neck flask was fitted with a mechanical stirrer, nitrogen inlet, thermocouple and thermocontroller, cooling bath and an addition funnel. tert-Butyl (4-bromo-2-cyano-1H-pyrrol-1-yl)carbamate (19 g, 66 mmol) was added and dissolved with 1,4-dioxane (50 mL), then the stirred orange solution was cooled to 0° C. and HCl/dioxane (4N, 100 mL, 8 eq.) was slowly added from the addition funnel, maintaining an internal temperature around 25° C. After 2 hours, the solution became cloudy and stirring at room temperature was continued for 7 hours. The reaction was monitored for completion by TLC (silica gel, 1:3 EtoAc/hexane, UV; Note: the free base may be observed as a high-Rf spot and can be misinterpreted as incomplete reaction). The reaction mixture was diluted with diethyl ether (150 mL) and the precipitated solids were collected by suction filtration and washed with ether (200 mL). Drying (vacuum oven at 50° C.) afforded the desired product as 10.9 g (93%) of a white solid. 1H-NMR (DMSO): δ 7.24 (d, 1H, J=2 Hz), 6.93 (d, 1H, J=2 Hz), 6.2 (bs, 3H, J=2.8, 4.4 Hz); MS: GC/MS, m/z=[M+H].

reactant | tert-Butyl (4-bromo-2-cyano-1H-pyrrol-1-yl)carbamate | 66 mmol, 19 g | BrC=1C=C(N(C1)NC(OC(C)(C)C)=O)C#N | C10H12BrN3O2
reactant | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
reactant | HCl dioxane | 4N, 100 mL, 8 eq. | Cl.O1CCOCC1
reactant | hexane | CCCCCC | C6H14
solvent | diethyl ether | 150 mL | C(C)OCC | C4H10O
product | 1-Amino-4-bromo-1H-pyrrole-2-carbonitrile hydrochloride | Cl.NN1C(=CC(=C1)Br)C#N | InChI=1S/C5H4BrN3.ClH/c6-4-1-5(2-7)9(8)3-4;/h1,3H,8H2;1H
